US07863328B2
Ethyl 5′-fluoro-2′-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]-biphenylcarboxylate
To a mixture, preheated to 54° C., of 2-bromo-4-fluorophenol (0.5 g; 2.61 mmol), triphenylphosphine (0.752 g; 2.87 mmol) and 2-(5-methyl-2-phenyloxazol-4-yl)ethanol (0.858 g; 2.87 mmol) in toluene (10 ml) is added dropwise a solution of diisopropyl azodicarboxylate (0.504 ml; 2.54 mmol) in toluene (10 ml). The reaction medium, which turns red, is stirred for a further 1 hour at 54° C. The solvent is concentrated to dryness and the evaporation residue is purified by flash chromatography on silica (85/15 heptane/ethyl acetate). 0.8 g of the expected product is obtained (81% yield).

reactant | 2-bromo-4-fluorophenol | 2.61 mmol, 0.5 g | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | triphenylphosphine | 2.87 mmol, 0.752 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(5-methyl-2-phenyloxazol-4-yl)ethanol | 2.87 mmol, 0.858 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCO | C12H13NO2
reactant | diisopropyl azodicarboxylate | 2.54 mmol, 0.504 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5′-fluoro-2′-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]-biphenylcarboxylate | 0.8 g, 81% yield | FC=1C=CC(=C(C1)C=1C(=CC=CC1)C(=O)OCC)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C27H24FNO4
